US08445501B2
cis-(4-{[4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-cyclohexyl)-carbamic acid tert-butyl ester
Starting from 4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A75) and cis-(4-amino-cyclohexyl)-carbamic acid tert-butyl ester the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C=C1)OC)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C18H17N3O4
reactant | cis-(4-amino-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)N)=O | C11H22N2O2
product | cis-(4-{[4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)OC)OCC2CC2)=O | C29H37N5O5
